US04209515
For conversion into the methyl ester already mentioned, 10 ml of a 6 N solution of hydrogen chloride in methanol is added to a solution of 2.08 g (0.005 mole) of crude 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(dimethylamino-methyl)-1H-1,2,4-triazole-3-carboxylic acid in 30 ml of methanol, and the whole is refluxed for 16 hours. The reaction mixture is thereupon concentrated in vacuo. Water is added to the residue, and extraction is performed twice with methylene chloride. The organic phase is washed twice with ice-cold 1 N sodium bicarbonate solution and twice with saturated sodium chloride solution; it is dried over sodium sulphate and concentrated in vacuo. The residue crystallises out on trituration with ether. After filtration with suction and drying in vacuo, there is obtained pure 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(dimethylamino-methyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester, m.p. 133°-135°.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(dimethylamino-methyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.005 mole, 2.08 g | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)N2N=C(N=C2CN(C)C)C(=O)O)C=CC=C1 | C19H16Cl2N4O3
reactant | methanol | CO | CH4O
reactant | methanol | 30 ml | CO | CH4O
product | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(dimethylamino-methyl)-1H-1,2,4-triazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C(=N1)CN(C)C)C1=C(C=C(C=C1)Cl)C(C1=C(C=CC=C1)Cl)=O | C20H18Cl2N4O3
